US09212190B2
A solution of [(3S)-12-[(4-[2-oxa-6-azaspiro[3.3]heptan-6-yl]cyclohexyl)oxy]-7-thia-9,11-diazatricyclo[6.4.0.0[2,6]]dodeca-1(12),2(6),8,10-tetraen-3-yl]methyl methanesulfonate (250 mg, 0.52 mmol, 1.00 equiv) and NaCN (153 mg, 3.12 mmol, 5.99 equiv) in DMSO (10 mL) was stirred for 3 h at 60° C. After cooling, the reaction was quenched by the addition of 30 mL of saturated aqueous sodium bicarbonate and extracted with 3×50 mL of ethyl acetate. The combined organic layers combined were washed with brine, dried over anhydrous sodium sulfate and concentrated under vacuum. The residue was applied onto a silica gel column with dichloromethane/methanol (10:1) to give 2-[(3R)-12-[(4-[2-oxa-6-azaspiro[3.3]heptan-6-yl]cyclohexyl)oxy]-7-thia-9,11-diazatricyclo[6.4.0.0[2,6]]dodeca-1(12),2(6),8,10-tetraen-3-yl]acetonitrile (140 mg, 65%) as a colorless oil.

reactant | [(3S)-12-[(4-[2-oxa-6-azaspiro[3.3]heptan-6-yl]cyclohexyl)oxy]-7-thia-9,11-diazatricyclo[6.4.0.0[2,6]]dodeca-1(12),2(6),8,10-tetraen-3-yl]methyl methanesulfonate | 0.52 mmol, 250 mg, 1.00 equiv | CS(=O)(=O)OC[C@@H]1C=2C3=C(N=CN=C3SC2CC1)OC1CCC(CC1)N1CC2(COC2)C1 | C22H29N3O5S2
reactant | NaCN | 3.12 mmol, 153 mg, 5.99 equiv | [C-]#N.[Na+]
solvent | DMSO | 10 mL | CS(=O)C | C2H6OS
product | 2-[(3R)-12-[(4-[2-oxa-6-azaspiro[3.3]heptan-6-yl]cyclohexyl)oxy]-7-thia-9,11-diazatricyclo[6.4.0.0[2,6]]dodeca-1(12),2(6),8,10-tetraen-3-yl]acetonitrile | 140 mg, 65% | C1OCC12CN(C2)C2CCC(CC2)OC=2N=CN=C1SC=3CC[C@@H](C3C21)CC#N | C22H26N4O2S
